US07902181B2
a) (S)-tert-Butyl 2-((S)-1-amino-3-(4-(3-(2-hydroxyethyl)-2-oxo-2,3-dihydrobenzo[d]thiazol-6-yl)phenyl)-1-oxopropan-2-ylcarbamoyl)piperidine-1-carboxylate
The subtitle compound was prepared by the method of Example 96 step (a) using (S)-tert-butyl 2-((S)-1-amino-1-oxo-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)propan-2-ylcarbamoyl)piperidine-1-carboxylate and 6-bromo-3-(2-hydroxyethyl)benzo[d]thiazol-2(3H)-one.

reactant | (S)-tert-butyl 2-((S)-1-amino-1-oxo-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)propan-2-ylcarbamoyl)piperidine-1-carboxylate | NC([C@H](CC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)NC(=O)[C@H]1N(CCCC1)C(=O)OC(C)(C)C)=O | C26H40BN3O6
reactant | 6-bromo-3-(2-hydroxyethyl)benzo[d]thiazol-2(3H)-one | BrC1=CC2=C(N(C(S2)=O)CCO)C=C1 | C9H8BrNO2S
product | (S)-tert-Butyl 2-((S)-1-amino-3-(4-(3-(2-hydroxyethyl)-2-oxo-2,3-dihydrobenzo[d]thiazol-6-yl)phenyl)-1-oxopropan-2-ylcarbamoyl)piperidine-1-carboxylate | NC([C@H](CC1=CC=C(C=C1)C1=CC2=C(N(C(S2)=O)CCO)C=C1)NC(=O)[C@H]1N(CCCC1)C(=O)OC(C)(C)C)=O | C29H36N4O6S
